US05763700
1-(2-Fluoro-2-(methoxycarbonyl)ethenyl)-1-(2-fluoro-4-trifluoromethylphenyl) cyclopropane
The method of Example 1 was repeated using zinc powder (1.3 g), copper (I) chloride (0.22 g), molecular sieve 4A (1.6 g), tetrahydrofuran (20 ml), 1-(2-fluoro-4-tri-fluoromethylphenyl)-1-formylcyclopropane (1.39 g), acetic anhydride (0.58 ml) and methyl dichlorofluoroacetate to yield the title compound (0.81 g, 44%).

reactant | 1-(2-fluoro-4-tri-fluoromethylphenyl)-1-formylcyclopropane | 1.39 g | FC1=C(C=CC(=C1)C(F)(F)F)C1(CC1)C=O | C11H8F4O
reactant | acetic anhydride | 0.58 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | methyl dichlorofluoroacetate | ClC(C(=O)OC)(F)Cl | C3H3Cl2FO2
catalyst | zinc | 1.3 g | [Zn] | Zn
catalyst | copper (I) chloride | 0.22 g | [Cu]Cl
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | 1-(2-Fluoro-2-(methoxycarbonyl)ethenyl)-1-(2-fluoro-4-trifluoromethylphenyl) cyclopropane | 0.81 g, 44% | FC(=CC1(CC1)C1=C(C=C(C=C1)C(F)(F)F)F)C(=O)OC | C14H11F5O2
